US04335136
A. Dimethyl 4,5-diphenylpyrrole-2,3-dicarboxylate
In a 2 l RB 3-neck flask with mechanical stirrer and condenser was placed 76.7 g (0.31 mole) of desyl amine hydrochloride [Pschorr et al, Chem. Ber., 35, 2740 (1902)], 750 ml methanol, 88 g (0.62 mole) dimethyl acetylenedicarboxylate (freshly distilled) and 61 g (0.75 mole) anhydrous sodium acetate. The mixture was heated at reflux for two hours. Then another 44 g (0.31 mole) of dimethyl acetylenedicarboxylate was added, and heating continued another two hours. While the reaction mixture was still at reflux, concentrated hydrochloric acid (~60 ml, to pH~2) was added dropwise. The mixture was heated at reflux another hour, then poured into 2 l water containing 200 ml 10% sodium bicarbonate solution. With stirring, more sodium bicarbonte was added until the solution was neutral. The gummy solid which precipitated was collected and washed with water. Trituration of this gummy material with ~500 ml of 50% aqueous ethanol gave a tan powdery solid, which was recrystallized from ~85% aqueous ethanol to give 65.5 g (63%) of white crystals, m.p. 191°-2° [Lit. m.p. 185°-7°; J. B. Hendrickson et al, J. Am. Chem. Soc., 86, 107 (1964)].

reactant | desyl amine hydrochloride | 0.31 mole, 76.7 g | Cl.C1(=CC=CC=C1)C(=O)C(C1=CC=CC=C1)N
reactant | dimethyl acetylenedicarboxylate | 0.62 mole, 88 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | sodium acetate | 0.75 mole, 61 g | C(C)(=O)[O-].[Na+]
reactant | dimethyl acetylenedicarboxylate | 0.31 mole, 44 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | hydrochloric acid | ~60 ml, pH~2 | Cl | ClH
reactant | sodium | [Na] | Na
solvent | water | 2 l | O | H2O
solvent | methanol | 750 ml | CO | CH4O
product | Dimethyl 4,5-diphenylpyrrole-2,3-dicarboxylate | 65.5 g, 63% | C1(=CC=CC=C1)C=1C(=C(NC1C1=CC=CC=C1)C(=O)OC)C(=O)OC | C20H17NO4
